US20010049385A1
A mixture of potassium fluoride on alumina (40% w/w, Aldrich, 11 g), 2-fluorobenzonitrile (6.0 ml, 56 mmol), 3-trifluoromethoxyphenol (10 g, 56 mmol), and 18-crown-6 (1.48 g, 5.6 mmol) in dimethylsulphoxide (40 ml) was heated to 140° C. for 20 hours. The reaction mixture was cooled to room temperature and diluted with ethyl acetate (300 ml). The solid was filtered off through a plug of celite. The solution was washed with a mixture of water (100 ml) and brine (100 ml). The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with water (100 ml) and dried over magnesium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (200 g), using ethyl acetate/heptane (1:3) as eluent, to give 9.80 g of 2-(3-(difluoromethoxy)phenoxy)benzonitrile.

reactant | potassium fluoride on alumina | 11 g | [F-].[K+]
reactant | 2-fluorobenzonitrile | 56 mmol, 6.0 ml | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 3-trifluoromethoxyphenol | 56 mmol, 10 g | FC(OC=1C=C(C=CC1)O)(F)F | C7H5F3O2
reactant | 18-crown-6 | 5.6 mmol, 1.48 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | dimethylsulphoxide | 40 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-(3-(difluoromethoxy)phenoxy)benzonitrile | 9.80 g | FC(OC=1C=C(OC2=C(C#N)C=CC=C2)C=CC1)F | C14H9F2NO2
